US05173493
To a solution of 2-chloro-8,9-dihydro-7-[(hydroxy)(5-methyl-1-trityl-1H-imidazol-4-yl)methyl]-10-methylpyrido[1,2-a]indol-6(7H)-one (1.64 g) in dichloromethane (32 ml) were added pyridine (0.83 ml) and acetic anhydride (0.53 ml). The solution was refluxed for 24 hours. After being cooled, the solution was washed with water twice and brine, dried over sodium sulfate, and evaporated, to give 7-[(acetoxy)(5-methyl-1-trityl-1H-imidazol-4-yl)methyl]-2-chloro-8,9-dihydro-10-methylpyrido[1,2-a]indol-6(7H)-one (1.49 g).

reactant | 2-chloro-8,9-dihydro-7-[(hydroxy)(5-methyl-1-trityl-1H-imidazol-4-yl)methyl]-10-methylpyrido[1,2-a]indol-6(7H)-one | 1.64 g | ClC=1C=C2C(=C3N(C2=CC1)C(C(CC3)C(C=3N=CN(C3C)C(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)O)=O)C | C37H32ClN3O2
reactant | pyridine | 0.83 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 0.53 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 32 ml | ClCCl | CH2Cl2
product | 7-[(acetoxy)(5-methyl-1-trityl-1H-imidazol-4-yl)methyl]-2-chloro-8,9-dihydro-10-methylpyrido[1,2-a]indol-6(7H)-one | 1.49 g | C(C)(=O)OC(C1CCC=2N(C3=CC=C(C=C3C2C)Cl)C1=O)C=1N=CN(C1C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C39H34ClN3O3
